US07482354B2
Potassium 8-(cyclopentylamino)-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate [B73-X00-M00(C01)-D02]
Ethyl 8-(cyclopentylamino)-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate (230 mg, 0.67 mmol) was suspended in anhydrous ethanol (5 mL) and treated with a 1.5 M solution of potassium hydroxide in ethanol (1.33 mL, 3 eq.) at reflux temperature for 1.5 hours. After cooling in ice bath, the resulting precipitate was collected by filtration to give the title compound (193 mg, 82% yield) as a crystalline solid.

reactant | Ethyl 8-(cyclopentylamino)-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 0.67 mmol, 230 mg | C1(CCCC1)NC1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)OCC | C18H23N5O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethanol | 1.33 mL, 3 eq. | C(C)O | C2H6O
product | Potassium 8-(cyclopentylamino)-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 193 mg, 82% yield | C1(CCCC1)NC1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)[O-].[K+] | InChI=1S/C16H19N5O2.K/c1-21-14-11(13(20-21)15(22)23)7-6-9-8-17-16(19-12(9)14)18-10-4-2-3-5-10;/h8,10H,2-7H2,1H3,(H,22,23)(H,17,18,19);/q;+1/p-1
